US07569536B2
Benzoyl chloride (50.0 μl, 0.430 mmol, commercially available product) and triethylamine (170 μl, 1.21 mmol) were sequentially added at 0° C. to a dichloromethane (3 ml) solution of 2-(1-piperidinyl)-5-(trifluoromethyl)aniline (102 mg, 0.417 mmol), obtained as described in Referential Example 1-2. The resulting mixture was warmed to room temperature and stirred for 18 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=10/1). Thus, N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]benzamide (GIF-0344) (126 mg, 86.7%) was yielded as a colorless solid.

reactant | Benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 1.21 mmol, 170 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | 2-(1-piperidinyl)-5-(trifluoromethyl)aniline | 0.417 mmol, 102 mg | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
solvent | Water | O | H2O
product | N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]benzamide | 126 mg, 86.7% | N1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=CC=C1)=O | C19H19F3N2O
